### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Adjunction): dualize adjoint lifting theorem

### PR DESCRIPTION
**Pull request by dagurtomas**
This PR renames the file `CategoryTheory.Adjunction.Lifting` to `CategoryTheory.Adjunction.Lifting.Left` and dualizes it in a new file `CategoryTheory.Adjunction.Lifting.Right` to lift right adjoints through comonads.

It also changes some names in the original file which didn't follow naming conventions, as well as renaming the implementation namespace.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Adjunction/Lifting/Right.lean [hunk 1]
```diff
@@ -0,0 +1,239 @@
...
+does.
+
+The adjoint lifting theorem says that given a commutative square of functors (up to isomorphism):
+
+      Q
+    A → B
+  U ↓   ↓ V
+    C → D
+      L
+
```
Comment (callesonne) [inline Mathlib/CategoryTheory/Adjunction/Lifting/Right.lean:30]: Here (and in other diagrams in these two files), it would be good to surround them with ``` so that they display properly in previews.

(I can't seem to add a suggestion since github gets confused with "```")

File: Mathlib/CategoryTheory/Adjunction/Lifting/Right.lean [hunk 2]
```diff
@@ -0,0 +1,239 @@
...
+      erw [← assoc, ← s.condition, assoc, ← U.map_comp, ← F.map_comp, RegularMono.w, F.map_comp,
+        U.map_comp, s.condition_assoc, assoc, ← adj₁.unit_naturality RegularMono.right]
+      rfl
+    · apply (RegularMono.lift' (adj₁.unit.app X) s.ι _).2
+    · intro m hm
+      rw [← cancel_mono (adj₁.unit.app X)]
+      apply hm.trans (RegularMono.lift' (adj₁.unit.app X) s.ι _).2.symm
+
+/-- (Implementation)
+To construct the left adjoint, we use the coequalizer of `U' F η_X` with the composite
```
Comment (callesonne) [inline Mathlib/CategoryTheory/Adjunction/Lifting/Right.lean:92]:
```suggestion
To construct the right adjoint, we use the equalizer of `U' F η_X` with the composite
```

File: Mathlib/CategoryTheory/Adjunction/Lifting/Right.lean [hunk 3]
```diff
@@ -0,0 +1,239 @@
...
+  erw [Fork.IsLimit.homIso_natural, Fork.IsLimit.homIso_natural]
+  simp only [Fork.ofι_pt, Functor.map_comp, assoc, limit.cone_x]
+  erw [adj₂.homEquiv_naturality_left, Equiv.rightInverse_symm]
+  simp
+
+end LiftRightAdjoint
+
+/-- The adjoint triangle theorem: Suppose `U : B ⥤ C` has a left adjoint `F` such that each counit
+`ε_X : FUX ⟶ X` is a regular epimorphism. Then if a category `A` has coequalizers of reflexive
+pairs, then a functor `R : A ⥤ B` has a left adjoint if the composite `R ⋙ U` does.
```
Comment (callesonne) [inline Mathlib/CategoryTheory/Adjunction/Lifting/Right.lean:162]:
```suggestion
/-- The adjoint triangle theorem: Suppose `U : A ⥤ B` has a left adjoint `F` such that each counit
`ε_X : FUX ⟶ X` is a regular epimorphism. Then if a category `C` has equalizers of coreflexive
pairs, then a functor `L : C ⥤ B` has a right adjoint if the composite `L ⋙ F` does.
```

File: Mathlib/CategoryTheory/Adjunction/Lifting/Right.lean [hunk 4]
```diff
@@ -0,0 +1,239 @@
...
+
+Note the converse is true (with weaker assumptions), by `Adjunction.comp`.
+See https://ncatlab.org/nlab/show/adjoint+triangle+theorem
+-/
+lemma isLeftAdjoint_triangle_lift  {U : A ⥤ B} {F : B ⥤ A} (L : C ⥤ B) (adj₁ : F ⊣ U)
```
Comment (callesonne) [inline Mathlib/CategoryTheory/Adjunction/Lifting/Right.lean:167]:
```suggestion
lemma isLeftAdjoint_triangle_lift {U : A ⥤ B} {F : B ⥤ A} (L : C ⥤ B) (adj₁ : F ⊣ U)
```

File: Mathlib/CategoryTheory/Adjunction/Lifting/Right.lean [hunk 5]
```diff
@@ -0,0 +1,239 @@
...
+    [∀ X, RegularMono (adj₁.unit.app X)] [HasCoreflexiveEqualizers C]
+    [(L ⋙ F).IsLeftAdjoint ] : L.IsLeftAdjoint where
+  exists_rightAdjoint :=
+    ⟨LiftRightAdjoint.constructRightAdjoint L _ adj₁ (Adjunction.ofIsLeftAdjoint _),
+      ⟨Adjunction.adjunctionOfEquivRight _ _⟩⟩
+
+/-- If `R ⋙ U` has a left adjoint, the domain of `R` has reflexive coequalizers and `U` is a monadic
+functor, then `R` has a left adjoint.
```
Comment (callesonne) [inline Mathlib/CategoryTheory/Adjunction/Lifting/Right.lean:175]:
```suggestion
/-- If `L ⋙ U` has a right adjoint, the domain of `R` has coreflexive equalizers and `U` is a
comonadic functor, then `L` has a right adjoint.
```

File: Mathlib/CategoryTheory/Adjunction/Lifting/Right.lean [hunk 6]
```diff
@@ -0,0 +1,239 @@
...
+
+      Q
+    A → B
+  U ↓   ↓ V
+    C → D
+      R
+
+where `U` has a left adjoint, `A` has reflexive coequalizers and `V` has a left adjoint such that
+each component of the counit is a regular epi.
+Then `Q` has a left adjoint if `R` has a left adjoint.
```
Comment (callesonne) [inline Mathlib/CategoryTheory/Adjunction/Lifting/Right.lean:209]:
```suggestion
where `U` has a right adjoint, `A` has coreflexive equalizers and `V` has a right adjoint such that
each component of the counit is a regular mono.
Then `Q` has a right adjoint if `L` has a right adjoint.
```

File: Mathlib/CategoryTheory/Adjunction/Lifting/Right.lean [hunk 7]
```diff
@@ -0,0 +1,239 @@
...
+/-- Suppose we have a commutative square of functors
+
+      Q
+    A → B
+  U ↓   ↓ V
+    C → D
+      R
+
+where `U` has a left adjoint, `A` has reflexive coequalizers and `V` is monadic.
+Then `Q` has a left adjoint if `R` has a left adjoint.
```
Comment (callesonne) [inline Mathlib/CategoryTheory/Adjunction/Lifting/Right.lean:229]:
```suggestion
where `U` has a right adjoint, `A` has reflexive equalizers and `V` is comonadic.
Then `Q` has a right adjoint if `L` has a right adjoint.
```

File: Mathlib/CategoryTheory/Adjunction/Lifting/Right.lean [hunk 8]
```diff
@@ -0,0 +1,239 @@
...
+
+The adjoint lifting theorem says that given a commutative square of functors (up to isomorphism):
+
+      Q
+    A → B
+  U ↓   ↓ V
+    C → D
+      L
+
+where `V` is comonadic, `U` has a right adjoint and `A` has coreflexive equalizers, then if `L` has
```
Comment (callesonne) [inline Mathlib/CategoryTheory/Adjunction/Lifting/Right.lean:31]: This line seems inconsistent with the other file. Based on the content (I am not familiar with the proofs) it seems that this one is correct, and the other one is unnecessarily strong? Am I right in this?

File: Mathlib/CategoryTheory/Adjunction/Lifting/Right.lean [hunk 9]
```diff
@@ -0,0 +1,239 @@
...
+-/
+import Mathlib.CategoryTheory.Monad.Adjunction
+import Mathlib.CategoryTheory.Monad.Equalizer
+
+/-!
+# Adjoint lifting
+
+This file gives two constructions for building right adjoints: the adjoint triangle theorem and the
+adjoint lifting theorem.
+
```
Comment (callesonne) [inline Mathlib/CategoryTheory/Adjunction/Lifting/Right.lean:14]: Very much a nitpick, but could you also add this blank line in `Left.lean`?

**Review by callesonne — APPROVED** [review]
I have not had a look at the proofs, but since this just dualizes the other file LGTM!

**Comment by dagurtomas** [comment]
Thanks for the review! BTW you should add the `awaiting-author` label when you suggest changes or make comments the author has to respond to, to temporarily remove the PR from the queue, reducing clutter for other reviewers.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
